US07425634B2
(84a) 2,2-diethoxyethyl benzoate
To a pyridine (30 ml) solution of glycol aldehyde diethylacetal (19.8 g, 148 mmol), benzoyl chloride (51.7 ml, 444 mmol) was added dropwise at −20 to 30° C. The mixture was stirred at room temperature for 167 hours and 50 minutes. After methanol and water were added to the mixture, extraction with ethyl acetate was performed. The obtained organic layer was washed with a saturated aqueous ammonium chloride solution, saturated aqueous sodium hydrogencarbonate solution, and a saturated saline solution. After dried over anhydrous magnesium sulfate, the mixture was concentrated under reduced pressure and purified by silica gel column chromatography (elution solvent: heptane, ethyl acetate/heptane=1/9). Thereafter, purification by silica gel column chromatography (elution solvent: heptane, ethyl acetate/heptane=1/100, 1/30, 1/10) was performed again to obtain the title compound (34 g, yield: 96.4%) as a light green oil.

reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | glycol aldehyde diethylacetal | 148 mmol, 19.8 g | C(C)OC(CO)OCC | C6H14O3
reactant | benzoyl chloride | 444 mmol, 51.7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,2-diethoxyethyl benzoate | 34 g, yield: 96.4% | C(C1=CC=CC=C1)(=O)OCC(OCC)OCC | C13H18O4
